US06180625B2
7-Amino-2-(2,6-difluoro-phenyl)-benzo[d][1,3]oxazin-4-one (20)
7-Nitro-2-(2,6-difluoro-phenyl)-benzo[d][1,3]oxazin-4-one (0.10 g) was dissolved in acetic acid (10 mL) under N2, PtO2 (5 mg) was added and the mixture was hydrogenated with H2 gas. Reaction time 1 day. The reaction mixture was filtered through Hyflo®, which was rinsed afterwards with ethyl acetate. The combined organic phases were evaporated to dryness and subsequently treated three times with toluene followed by evaporation.

reactant | 7-Nitro-2-(2,6-difluoro-phenyl)-benzo[d][1,3]oxazin-4-one | 0.10 g | [N+](=O)([O-])C=1C=CC2=C(N=C(OC2=O)C2=C(C=CC=C2F)F)C1 | C14H6F2N2O4
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 5 mg | O=[Pt]=O
product | 7-Amino-2-(2,6-difluoro-phenyl)-benzo[d][1,3]oxazin-4-one | NC=1C=CC2=C(N=C(OC2=O)C2=C(C=CC=C2F)F)C1 | C14H8F2N2O2
